US08124786B2
5-Fluoro-1,3-dimethyl-1 H-pyrazole-4-carboxamide
19.9 g of 5-fluoro-1,3-dimethyl-1H-pyrazole-4-carbonyl chloride are added dropwise at 20-35° C. to a mixture of 35 g of 25 percent aqueous ammonia and 170 ml of THF. After stirring for 4 h, the organic solvent fraction is concentrated by evaporation under reduced pressure and 0.2 mol of potash and sodium chloride are added to saturation. After extracting four times with ethyl acetate and concentrating the combined organic phases by evaporation under reduced pressure, 16.6 g of a yellow solid are obtained.

reactant | 5-fluoro-1,3-dimethyl-1H-pyrazole-4-carbonyl chloride | 19.9 g | FC1=C(C(=NN1C)C)C(=O)Cl | C6H6ClFN2O
reactant | ammonia | 35 g | N | H3N
reactant | potash | 0.2 mol | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 170 ml | C1CCOC1 | C4H8O
product | 5-Fluoro-1,3-dimethyl-1 H-pyrazole-4-carboxamide | FC1=C(C(=NN1C)C)C(=O)N | C6H8FN3O
